US05969140
To a solution of 1-(2-chloro-4-pyridyl)-3-carboxy-6,7-dimethoxynaphthalene (2.3 g) in tetrahydrofuran (60 ml) is added dropwise a solution of sodium aluminum bis(2-methoxyethoxy) hydride (70% toluene solution, 2.36 ml) in tetrahydrofuran at -10° C., and the mixture is stirred at room temperature for one hour. To the mixture is added dropwise a solution of sodium aluminum bis(2-methoxyethoxy) hydride (70% toluene solution, 1.57 ml) in tetrahydrofuran (5 ml), and the mixture is heated with stirring at 40° C. for one hour. To the mixture is added methanol, and thereto is added an aqueous sodium hydroxide solution (sodium hydroxide (1.6 g) in water (20 ml)), and the mixture is stirred at 50° C. for 30 minutes. The reaction residue is extracted with ethyl acetate, and extracted with dichloromethane. The organic layer is washed with water, dried, and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:acetone=19:1), and crystallized from ether to give 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-dimethoxynaphthalene (531 mg, yield; 24%).

reactant | 1-(2-chloro-4-pyridyl)-3-carboxy-6,7-dimethoxynaphthalene | 2.3 g | ClC1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OC)OC)C(=O)O | C18H14ClNO4
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 20 ml, 1.6 g | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-4-pyridyl)-3-hydroxymethyl-6,7-dimethoxynaphthalene | 531 mg, yield; 24% | ClC1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OC)OC)CO | C18H16ClNO3
